US05179077
2-Bromoheptanoic acid (86.0 g, 411.3 mmol) is placed in 600 ml of dimethylformamide, 49.95 g (493.6 mmol) of triethylamine are added dropwise thereto within 5 minutes at 20° C. and the pale yellow solution is stirred at room temperature for 15 minutes. Chloroacetone (57.07 g, 617 mmol) is added dropwise during 30 minutes and the yellow-brown suspension is stirred at room temperature for 90 minutes. The reaction mixture is poured on to 1 l of 1N HCl and ice and extracted in a separating funnel with 3×500 ml of ether. The organic phases are washed with 2×200 ml of water, dried over MgSO4 and concentrated on a rotary evaporator. Distillation at 86°-88° C./0.05 mbar yields 80.56 g (73.9%) of acetylmethyl 2-bromoheptanoate.

reactant | 2-Bromoheptanoic acid | 411.3 mmol, 86.0 g | BrC(C(=O)O)CCCCC | C7H13BrO2
reactant | triethylamine | 493.6 mmol, 49.95 g | C(C)N(CC)CC | C6H15N
reactant | Chloroacetone | 617 mmol, 57.07 g | ClCC(C)=O | C3H5ClO
reactant | HCl | 1N, 1 l | Cl | ClH
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | acetylmethyl 2-bromoheptanoate | 80.56 g, 73.9% | BrC(C(=O)OCC(C)=O)CCCCC | C10H17BrO3
